
* cell INV2_ALT_ROUTE
* pin Y
* pin A
* pin VDD
* pin VSS
.SUBCKT INV2_ALT_ROUTE 1 2 3 4
* net 1 Y
* net 2 A
* net 3 VDD
* net 4 VSS
* device instance $1 r0 *1 1.2,7 PMOS_VTG
M$1 1 2 3 3 PMOS_VTG L=0.05U W=0.5U AS=0.2875P AD=0.2875P PS=2.15U PD=2.15U
* device instance $2 r0 *1 1.2,2 NMOS_VTG
M$2 1 2 4 4 NMOS_VTG L=0.05U W=0.25U AS=0.14375P AD=0.14375P PS=1.65U PD=1.65U
.ENDS INV2_ALT_ROUTE
