
* cell NAND2
* pin A
* pin Y
* pin B
* pin VDD
* pin VSS
.SUBCKT NAND2 2 3 4 5 6
* net 2 A
* net 3 Y
* net 4 B
* net 5 VDD
* net 6 VSS
* device instance $1 r0 *1 2.7,7 PMOS_VTG
M$1 3 4 5 5 PMOS_VTG L=0.05U W=0.5U AS=0.2875P AD=0.2875P PS=2.15U PD=2.15U
* device instance $2 r0 *1 1.2,7 PMOS_VTG
M$2 3 2 5 5 PMOS_VTG L=0.05U W=0.5U AS=0.2875P AD=0.2875P PS=2.15U PD=2.15U
* device instance $3 r0 *1 2.7,2 NMOS_VTG
M$3 1 4 6 6 NMOS_VTG L=0.05U W=0.25U AS=0.14375P AD=0.14375P PS=1.65U PD=1.65U
* device instance $4 r0 *1 1.2,2 NMOS_VTG
M$4 3 2 1 6 NMOS_VTG L=0.05U W=0.25U AS=0.14375P AD=0.14375P PS=1.65U PD=1.65U
.ENDS NAND2
