
* cell TG_PLUS_INV
* pin D
* pin CLK
* pin Y
* pin CLKB
* pin VDD
* pin VSS
.SUBCKT TG_PLUS_INV 2 3 4 5 6 7
* net 2 D
* net 3 CLK
* net 4 Y
* net 5 CLKB
* net 6 VDD
* net 7 VSS
* device instance $1 r0 *1 2.7,7 PMOS_VTG
M$1 4 1 6 6 PMOS_VTG L=0.05U W=0.5U AS=0.2875P AD=0.2875P PS=2.15U PD=2.15U
* device instance $2 r0 *1 1.2,7 PMOS_VTG
M$2 1 5 2 6 PMOS_VTG L=0.05U W=0.5U AS=0.2875P AD=0.2875P PS=2.15U PD=2.15U
* device instance $3 r0 *1 2.7,2 NMOS_VTG
M$3 4 1 7 7 NMOS_VTG L=0.05U W=0.25U AS=0.14375P AD=0.14375P PS=1.65U PD=1.65U
* device instance $4 r0 *1 1.2,2 NMOS_VTG
M$4 1 3 2 7 NMOS_VTG L=0.05U W=0.25U AS=0.14375P AD=0.14375P PS=1.65U PD=1.65U
.ENDS TG_PLUS_INV
